US07973078B2
3.93 g of 3-chloro-2-methylaniline was dissolved in 10 mL of DMF, and 2.00 g of potassium carbonate was added thereto, followed by portionwise addition of 3.55 g of 2-bromo-N-(4-methoxybenzyl)acetamide over 1 hour. The mixture was stirred at room temperature overnight, and ice water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=70:30 to 30:70) to obtain 2.89 g of N2-(3-chloro-2-methylphenyl)-N-(4-methoxybenzyl)glycinamide.

reactant | 3-chloro-2-methylaniline | 3.93 g | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | potassium carbonate | 2.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-N-(4-methoxybenzyl)acetamide | 3.55 g | BrCC(=O)NCC1=CC=C(C=C1)OC | C10H12BrNO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N2-(3-chloro-2-methylphenyl)-N-(4-methoxybenzyl)glycinamide | 2.89 g | ClC=1C(=C(C=CC1)NCC(=O)NCC1=CC=C(C=C1)OC)C | C17H19ClN2O2
